US09162992B2
To 2-(n-propyl)amino-4-chloro-7-i-propyl-pyrrolo[2,3-d]pyrimidine (CXXXIV, 3.0 g, 12 mmol) in n-butanol (10 mL) was added propan-2-amine (1.05 g, 18 mmol) and potassium carbonate (2.5 g, 18 mmol). The resulting mixture was stirred in an autoclave equipped with a stirrer at 140° C. for 16 h. After cooling to room temperature, water was added (20 mL), and the mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed with water and then with a brine solution and dried over anhydrous Na2SO4. After the solvents were removed in vacuo, the residue was purified by flash column chromatography (PE/EtOAc=5/1 to 3/1) to yield 2-(n-propyl)amino-4-(i-propyl)amino-7-i-propyl-pyrrolo[2,3-d]pyrimidine (CXXXV, 1.2 g, 36%) as a yellow solid. LCMS: (ESI) m/z=276 (M+H)+.

reactant | 2-(n-propyl)amino-4-chloro-7-i-propyl-pyrrolo[2,3-d]pyrimidine | 12 mmol, 3.0 g | C(CC)NC=1N=C(C2=C(N1)N(C=C2)C(C)C)Cl | C12H17ClN4
reactant | propan-2-amine | 18 mmol, 1.05 g | CC(C)N | C3H9N
reactant | potassium carbonate | 18 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | 2-(n-propyl)amino-4-(i-propyl)amino-7-i-propyl-pyrrolo[2,3-d]pyrimidine | 1.2 g, 36% | C(CC)NC=1N=C(C2=C(N1)N(C=C2)C(C)C)NC(C)C | C15H25N5
